US07683056B2
2-[3,5-Bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E34)
2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide (D24) (390 mg, 0.498 mmol) was dissolved 17 mL of methanol. To this solution was added concentrated HCl (0.9 mL) at 0° C., and stirring was continued at room temperature for 3 h (complete conversion). The reaction mixture was loaded on a SCX cartridge and washed with MeOH. The product was eluted with 0.5 M methanolic ammonia. The product-containing fractions were evaporated, leaving the target compound as a white solid: 310 mg, 0.464 mmol, 93%.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 0.498 mmol, 390 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C39H49F7N4O3Si
reactant | HCl | 0.9 mL | Cl | ClH
solvent | methanol | 17 mL | CO | CH4O
product | 2-[3,5-Bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C33H35F7N4O3
